US03957783
To a solution of 1.5 g of 2-(N-methylacetylamino)-3-(o-fluorobenzoyl)-5-chlorothiophene in 7 ml of ethanol is added 4 ml of 6 N aqueous hydrochloric acid. The mixture is heated at 90°C for 2 hours, evaporated under reduced pressure to a residue, neutralized with aqueous ammonia, then extracted with ether. The ether extracts are washed with water, dried over sodium sulfate, when evaporated under reduced pressure to a oil, which is chromatographed on silica gel using chloroform as an eluent to give 2-(N-methylamino)-3-(o-fluorobenzoyl)-5-chlorothiophene as crystals having a melting point of 93° - 94°C.

reactant | 2-(N-methylacetylamino)-3-(o-fluorobenzoyl)-5-chlorothiophene | 1.5 g | CCC(=O)NC=1SC(=CC1C(C1=C(C=CC=C1)F)=O)Cl | C14H11ClFNO2S
reactant | hydrochloric acid | 6 N, 4 ml | Cl | ClH
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 2-(N-methylamino)-3-(o-fluorobenzoyl)-5-chlorothiophene | CNC=1SC(=CC1C(C1=C(C=CC=C1)F)=O)Cl | C12H9ClFNOS
